US07018988B2
(3EZ,5S)-5-(3,4-dihydro-2(1H)-isoquinolinylcarbonyl)-1-[(2′,3-dimethyl[1,1′-biphenyl]-4-yl)carbonyl]-3-pyrrolidinone O-methyloxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′,3-dimethyl[1,1′-biphenyl]-4-carboxylic acid, and 1,2,3,4-tetrahydroisoquinoline, the title compound was obtained in 77% purity by HPLC. MS(ESI+): m/z=482.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′,3-dimethyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)O)C | C15H14O2
reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | (3EZ,5S)-5-(3,4-dihydro-2(1H)-isoquinolinylcarbonyl)-1-[(2′,3-dimethyl[1,1′-biphenyl]-4-yl)carbonyl]-3-pyrrolidinone O-methyloxime | CON=C1CN([C@@H](C1)C(=O)N1CC2=CC=CC=C2CC1)C(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)C)C | C30H31N3O3
